US04578393
1-(4-Cyanophenyl)-1,4-dihydroisoquinol-3-one
A solution of 1-(4-bromophenyl)-1,4-dihydroisoquinol-3-one (15.1 g, 50 mmol) and cuprous cyanide (8.95 g, 100 mmol) in N-methylpyrrolidinone (150 ml) was heated under reflux under a nitrogen atmosphere for 2 h. The solution was cooled and diluted with 10% aqueous ethylenediamine solution (1000 ml), then extracted with ethyl acetate (4×250 ml). The combined extracts were washed with water (4×250 ml) and brine (250 ml), then dried (MgSO4) and evaporated to dryness to leave a pale brown solid which was crystallised from ethyl acetate to give the title compound (8.43 g, 68%), m.p. 165°-168° C. (ethanol).

reactant | 1-(4-bromophenyl)-1,4-dihydroisoquinol-3-one | 50 mmol, 15.1 g | BrC1=CC=C(C=C1)C1NC(CC2=CC=CC=C12)=O | C15H12BrNO
reactant | N-methylpyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethylenediamine | 1000 ml | C(CN)N | C2H8N2
product | 1-(4-Cyanophenyl)-1,4-dihydroisoquinol-3-one | 8.43 g, 68% | C(#N)C1=CC=C(C=C1)C1NC(CC2=CC=CC=C12)=O | C16H12N2O
